US07960394B2
8-Methoxy-3-methyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 3-amino-2-methoxyisonicotinic acid, methylamine and 4-(3-pyrrolidin-1-ylpropoxy)benzaldehyde.

reactant | 3-amino-2-methoxyisonicotinic acid | NC1=C(C(=O)O)C=CN=C1OC | C7H8N2O3
reactant | methylamine | CN | CH5N
reactant | 4-(3-pyrrolidin-1-ylpropoxy)benzaldehyde | N1(CCCC1)CCCOC1=CC=C(C=O)C=C1 | C14H19NO2
product | 8-Methoxy-3-methyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]pyrido[3,4-d]pyrimidin-4(3H)-one | COC1=NC=CC2=C1N=C(N(C2=O)C)C2=CC=C(C=C2)OCCCN2CCCC2 | C22H26N4O3
